US05700836
The corresponding Grignard compound was prepared under argon from 304 mg of Mg shavings and 2.50 g of 2-bromo-9,9-dimethyl-6,7,8,9-tetrahydro-5H-benzocycloheptene in 25 ml of abs. tetrahydrofuran. After cooling to -15° C. 206 mg of CuI and 1.78 ml of 1-iodobutane were added in succession. The mixture was left to react at room temperature for 2 hours and then poured into ice/ammonium chloride solution. The solution was extracted with diethyl ether, washed with water, dried and evaporated. After filtration over SiO2 with hexane as the eluent there were obtained 2.27 g of 2-butyl-9,9-dimethyl-6,7,8,9-tetrahydro-5H-benzo-cycloheptene (contaminated with 4% regioisomers and 6% 5,5-dimethyl-6,7,8,9-tetrahydro-5H-benzocyloheptene).

reactant | 2-bromo-9,9-dimethyl-6,7,8,9-tetrahydro-5H-benzocycloheptene | 2.50 g | BrC=1C=CC2=C(C(CCCC2)(C)C)C1 | C13H17Br
reactant | 1-iodobutane | 1.78 ml | ICCCC | C4H9I
catalyst | CuI | 206 mg | [Cu]I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-butyl-9,9-dimethyl-6,7,8,9-tetrahydro-5H-benzo-cycloheptene | 2.27 g | C(CCC)C=1C=CC2=C(C(CCCC2)(C)C)C1 | C17H26
